US07008950B1
3-[4-(Dimethylamino)phenyl]-5-(4-methoxybenzyloxy)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran
Using 3-[4-(dimethylamino)phenyl]-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-ol and 4-methoxybenzyl chloride, the title compound was obtained in the same manner as in Example 1.

reactant | 3-[4-(dimethylamino)phenyl]-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-ol | CN(C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)O)C)(C)C)C | C21H27NO2
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 3-[4-(Dimethylamino)phenyl]-5-(4-methoxybenzyloxy)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran | Yield: 42% | CN(C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)OCC2=CC=C(C=C2)OC)C)(C)C)C | C29H35NO3
